Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Lipitor / ofloxacin / spironolactone / eplerenone
 
Attending: ___.
 
Chief Complaint:
altered mental status
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ PMH of CAD, NHL ___ s/p surgery/XRT at ___, Ataxia ___
superficial siderosis), Paranoid delusions, Prior SI attempt, 
who
presented to ED with altered mental status

As per review of notes, he is off systemic therapy for 
metastatic
prostate cancer, and just completed radium dosing for painful
bony metastases. Recently started on gabapentin on ___.

Patient is ___ speaking but when ___ phone interpreter
used he would smile and not answer, despite being able to hear
the interpreter. He told her "I will say as much as I would like
to, when I would like to" and then refused to answer any more
questions. When the interpreter hung up, I asked him questions 
in
___ which he was able to respond to. He correctly stated 
that
it was winter, that he lived in ___, that he is married and
has both children/grandchildren, that he was born in ___, but
when I asked why he was brought to the ED he smiled and did not
elaborate. He denied pain or discomfort. 

As per internal medicine resident in ED, who spoke to patient's
wife during the day, pt was reportedly well up until ___,
playing a game and winning at it, then sometime on ___
afternoon started speaking nonsensically, and wouldnt answer
questions directly. Also had intermittent difficulty identifying
his grandchild. In this setting intermittently refused to
eat/drink, and may have missed 1 or 2 doses of his medications.
Wife counts his medications and they keep his Ambien locked up
given prior history of SI attempt. He apparently had not been
complaining of any fevers, chills, cough, shortness of breath,
abdominal pain, nausea, vomiting. Daughter noted that he had one
psych hospitalization back in ___ when he overdosed on ambien,
but had been maintained on Seroquel since. In the ED, he was 
able
to identify his wife and daughter, state that it was ___, but
would reportedly not answer other questions he was asked. 

In the ED, initial VS were: 97.7 93 150/66 16 94% RA. Temp 102.6
at max. ___ 1.2, WBC 8, Hgb 10.8, plt 123, CRP 179, erum to
negative, LFTs wnl, CK wnl, CHEM wnl, lactate 1.1, flu negative,
UA negative for pyuria, utox negative, LP with 45 protein 69
glucoase, 1WBC 1 RBC, gram stain negative, HSV PCR pending, trop
<0.01. Repeat CRP increased to 264 but other values remained
same. 

CT A/P with contrast:
1. No acute abdominopelvic CT findings to correlate with
patient's reported symptoms.
2. Mottled and heterogeneous appearance of the visualized spine
is in keeping with known underlying metastatic disease. No
evidence of new distant abdominopelvic metastatic lesion.
3. Trace bilateral pleural effusions.

CTH:
No evidence of acute intracranial abnormalities.

CXR:
Low lung volumes without acute cardiopulmonary abnormality.

Given fever and altered mental status patient was written for
broad spectrum Abx while awaiting LP. While LP was negative, 
they
continued Abx in light of elevated CRP and unclear etiology. At
one point patient apparently got agitated and was given 2.5mg IM
Haldol. 

 
Past Medical History:
PAST ONCOLOGY HISTORY:
As per last outpatient clinic note by Dr ___:
"advanced castrate resistant prostate cancer.  He had started
abiraterone/pred in ___, has completed XRT and has not had
significant new symptoms, except anxiety associated with his PSA
rise. He recently has reported some nonspecific/possible bony
pain in multiple locations on shoulder chest, which may be
associated with his sites of disease on his bone scan. His 
biopsy
had insufficient tumor tissue for genetic sequencing. Thus we
will send Liguid biopsy once the kit arrives. 

Will continue radium to hopefully help his bone pain before
deciding whether to start systemic therapy with enzalutamide or
targeted therapy like olaparib, pending the results of the 
liquid
biopsy. Given his psychiatric health and minimal symptoms, I do
not feel
chemotherapy is an appropriate option"

PAST MEDICAL HISTORY:
-CHF
-CAD h/o myocardial infarctions in ___, also in ___, in ___,
he had
an LAD stent placed by Dr. ___ at ___, phone ___. 
It was a Xience Prime LL stent
-HTN
-HLD
-Non-Hodgkin's lymphoma in ___ and he underwent surgery at the
___ by Dr. ___, then he had radiation at
___. Then his care was switched over to ___. He still
follows at ___. 
-Hernia
-Skin cancers?
-Ataxia ___ superficial siderosis)
-Paranoid delusions
-Prior SI attempt
 
Social History:
___
Family History:
 Father had heart disease.  Sister has lung
cancer.  His daughter has had ovarian cancer.
 
Physical Exam:
Admission exam:
===============
GENERAL: sitting in chair, appears comfortable, no acute
distress, smiling
EYES: anicteric
HEENT: Oropharynx clear, moist mucous membranes, no facial
asymmetry
NECK:   no neck stiffness, normal range of motion
LUNGS: Clear to auscultation bilaterally without any wheezes
rales or rhonchi
CV: Regular rate, normal distal perfusion without edema
ABD: Soft nontender, nondistended, normoactive bowel sounds
GENITOURINARY: No Foley or suprapubic tenderness
EXT: Normal muscle bulk, no deformity, strength 5 out of 5
SKIN: Warm/dry, no rash
NEURO: Alert and orientedx2 (Name/season), fluent speech, able 
to
answer simple questions in ___, is able to follow commands
(sit up, test arm/leg strength), dysmetria on finger to nose on
both hands, no pronator drift
Psych: paranoid
.
.
Discharge exam:
===============
VS: reviewed in eFlowsheets
24 HR Data (last updated ___ @ 745)
    Temp: 97.6 (Tm 98.3), BP: 153/61 (142-161/53-67), HR: 76
(76-103), RR: 18 (___), O2 sat: 98% (96-98), O2 delivery: ra,
Wt: 146.8 lb  
GENERAL: NAD, sitting up in chair
EYES: anicteric, pupils 1-2 mm b/l
HEENT: dry MM
LUNGS: CTAB w/ normal WOB
CV: Regular rate, normal distal perfusion without edema
ABD: Soft nontender, nondistended, normoactive bowel sounds
SKIN: Warm/dry, no rash
NEURO: awake, alert; mild lower right facial droop is stable
compared with yesterday; conversant with me in ___ today
Psych: calm, smiling, conversant; overall seems significantly
improved compared with yesterday.
 
Pertinent Results:
Admission labs:
===============
___ 05:57AM BLOOD WBC-6.2 RBC-3.37* Hgb-10.0* Hct-30.1* 
MCV-89 MCH-29.7 MCHC-33.2 RDW-13.5 RDWSD-44.0 Plt ___
___ 05:57AM BLOOD Neuts-87.0* Lymphs-5.3* Monos-6.3 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-5.43 AbsLymp-0.33* 
AbsMono-0.39 AbsEos-0.02* AbsBaso-0.02
___ 05:57AM BLOOD ___ PTT-29.2 ___
___ 05:57AM BLOOD Glucose-100 UreaN-23* Creat-1.2 Na-140 
K-3.8 Cl-99 HCO3-27 AnGap-14
___ 05:57AM BLOOD ALT-11 AST-28 AlkPhos-116 TotBili-0.5
___ 05:57AM BLOOD Calcium-9.2 Phos-3.1 Mg-1.9
___ 05:57AM BLOOD VitB12-1136*
___ 05:57AM BLOOD TSH-1.6
___ 08:56AM BLOOD CRP-264.5*
.
.
MICROBIOLOGY
============
-___ BCx: No growth (final)
-___ BCx: No growth (final)
-___ BCx: No growth (final)
-___ UCx: STAPHYLOCOCCUS, COAGULASE NEGATIVE. 10K-100K CFU/mL. 
-___ CSF:
  ___ 6:45 pm CSF;SPINAL FLUID      SOURCE: LP TUBE #3. 
  **FINAL REPORT ___
  GRAM STAIN (Final ___: 
      -NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      -NO MICROORGANISMS SEEN. 
  FLUID CULTURE (Final ___:
      -NO GROWTH.
-Flu A&B PCR: negative
-CSF HSV PCR: negative
.
.
IMAGING
=======
___ CT A/P with contrast:
1. No acute abdominopelvic CT findings to correlate with
patient's reported symptoms.
2. Mottled and heterogeneous appearance of the visualized spine
is in keeping with known underlying metastatic disease. No
evidence of new distant abdominopelvic metastatic lesion.
3. Trace bilateral pleural effusions.
.
___ CT head:
No evidence of acute intracranial abnormalities.
.
___ CXR:
Low lung volumes without acute cardiopulmonary abnormality.
.
.
DISCHARGE LABS
==============
N/A - checking labs no longer within goals of care
 
Brief Hospital Course:
___ PMH of CAD, NHL ___ s/p surgery/XRT at ___, Ataxia ___ 
superficial siderosis), hx of paranoid delusions, hx of SI 
attempt, who presented to ED with altered mental 
status/delirium. Had transient fever with negative infectious 
workup including an LP, CT a/p, CXR, UA. Received 1 dose of 
broad spectrum abx in ED, and Haldol for agitation. Neuro and ID 
consults called. Neuro rec MRI, which family decided against 
getting MRI citing unlikely to change treatment course. ID did 
not think there's is an active infection. Patient's delirium 
improved with holding home oxycodone and gabapentin, however his 
paranoia started to get worse. Psych consulted for medication 
management and recommended starting Seroquel standing at night 
and prn for agitation. Had improvement with this regimen.  Had 
multiple discussions with family and involving the patient's 
primary oncologist, Dr. ___ ultimately it was 
determined that there are no further potentially curative 
therapeutic options for his rapidly progressive metastatic 
prostrate cancer and family decided to transition to 
comfort-focused care.

# Encephalopathy w/ altered mental status, paranoia, delirium: 
Psych evaluated and felt this was delirium on dementia; patient 
& family declined MRI brain for further assessment re: potential 
metastatic brain lesions as etiology; ultimately we suspect this 
was driven by pain meds (gabapentin, oxycodone) in poor 
substrate and in the setting of ___ paranoia and severely 
altered mental status has resolved with stopping gabapentin, 
minimizing oxycodone, and starting Seroquel.

Does still have a component of disorientation and some 
waxing/waning confusion consistent with delirium on dementia. 
Not agitated or in any apparent distress. Today seems much 
better in terms of his mood and mental status.
- Psychiatry eval/recs: not a risk to self or others
- OT eval: would benefit from rehab
- continue Seroquel QHS & PRN agitation
- continue Ramelteon QHS:PRN insomnia

# Fever: resolved, work-up was unremarkable, ID signed off

# Metastatic prostate cancer: Dr. ___ is his primary 
oncologist. Foundation One results did not reveal new 
therapeutic target.  This is a terminal diagnosis w/ life 
expectancy less than 6 months at this time.
-no further treatment options to be pursued per family wishes
-focus on comfort and quality of life going forward

# ___ pain from mets: seems to be much better in past few 
days; is s/p Radium treatments as outpatient, on standing 
Tylenol plus Oxycodone 5 mg PRN which he has not required much 
of recently
-continue current pain regimen, increase PRN pain meds as needed 
at rehab/hospice

# Anorexia/Poor appetite w/ resulting weight loss: encouraging 
PO intake as tolerated, on mirtazapine QHS, family not 
interested in trial of dronabinol
-PO intake for enjoyment

# ___ (mild) on CKD: Cr 1.0 to 1.6 to 1.2; 
-given overall goals of care to keep him comfortable, stopped 
checking renal function labs

# Pancytopenia: suspect ___ chronic metastatic disease, prior 
radium, malnutrition, etc.
-given overall goals of care to keep him comfortable, stopped 
checking labs.

# Ataxia (chronic, ___ superficial siderosis)
# Gait instability
-___ evaluated, advised rehab

# Hx of chronic subarachnoid hemorrhages (presumably from CAA)
# Presumed cerebral amyloid angiopathy
-BP control goal is SBP < 140 to minimize risk of ICH

# CAD w/ hx of MI in ___ and hx of PCI w/ LAD stent 
(___)
# Hx of HFrEF ___ iCMP (last LVEF was 40% on TTE in ___
# HTN
-We continued his home aspirin, statin, metoprolol, and 
amlodipine. 
-Held home lisinopril and Lasix in setting ___ that seemed 
most likely due to hypovolemia from poor PO intake.  
-Home lisinopril was resumed on discharge but at a lower dose 
(10 mg instead of 40 mg). 
-Home Lasix was not resumed, as his PO fluid intake was very low 
in the days prior to discharge.
.
.
.
Code status: DNR/DNI, OK to hospitalize.

MOLST form: completed by phone on ___, requires daughter's 
signature when patient arrives at Rehab.
.
.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. amLODIPine 5 mg PO DAILY 
2. Furosemide 20 mg PO DAILY 
3. Lisinopril 40 mg PO DAILY 
4. Metoprolol Succinate XL 100 mg PO DAILY 
5. Mirtazapine 7.5 mg PO QHS 
6. Omeprazole 20 mg PO DAILY 
7. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Moderate 

8. QUEtiapine Fumarate 50 mg PO DAILY 
9. Ramelteon 8 mg PO QHS 
10. Rosuvastatin Calcium 20 mg PO QPM 
11. Tamsulosin 0.8 mg PO QHS 
12. Aspirin 81 mg PO DAILY 
13. Calcium 500 With D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral TID 
14. Multivitamins W/minerals 1 TAB PO DAILY 
15. Artificial Tears ___ DROP BOTH EYES PRN dry eyes 
16. Gabapentin 100 mg PO TID 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Docusate Sodium 100 mg PO BID  
3.  Lidocaine 5% Patch 2 PTCH TD QAM  
4.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation: no BMs 
in >24 hours  
5.  Senna 8.6 mg PO QHS  
6.  Lisinopril 10 mg PO DAILY  
7.  OxyCODONE (Immediate Release) 5 mg PO TID:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth TID:PRN Disp #*30 Tablet 
Refills:*0 
8.  QUEtiapine Fumarate 50 mg PO QPM  
9.  QUEtiapine Fumarate 25 mg PO QHS:PRN agitation  
10.  QUEtiapine Fumarate 6.25-12.5 mg PO BID:PRN agitation  
11.  Ramelteon 8 mg PO QHS:PRN insomnia 
Should be given 30 minutes before bedtime  
12.  amLODIPine 5 mg PO DAILY  
13.  Artificial Tears ___ DROP BOTH EYES PRN dry eyes  
14.  Aspirin 81 mg PO DAILY  
15.  Metoprolol Succinate XL 100 mg PO DAILY  
16.  Mirtazapine 7.5 mg PO QHS  
17.  Multivitamins W/minerals 1 TAB PO DAILY  
18.  Omeprazole 20 mg PO DAILY  
19.  Rosuvastatin Calcium 20 mg PO QPM  
20.  Tamsulosin 0.8 mg PO QHS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
# Acute delirium on dementia: with paranoia, disorientation, 
confusion
# Metastatic prostate cancer with chronic metastatic bone pain
# Anorexia and poor appetite with resulting weight loss and 
malnutrition
# ___ (mild)
# Pancytopenia
# Hx of NHL ___ s/p surgery/XRT at ___
# Ataxia (chronic, ___ superficial siderosis)
# Hx of chronic ICH w/ presumed cerebral amyloid angiopathy
# CAD w/ hx of MI in ___ and hx of PCI w/ LAD stent 
(___)
# Hx of HFrEF ___ iCMP (last LVEF was 40% on TTE in ___
# HTN
# HLD

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
 
Discharge Instructions:
Mr. ___,
You have been admitted to the hospital for altered mental 
status. We think you had an episode of delirium either due to a 
viral illness or sedating medications. Your delirium slowly 
resolved with holding some of your previous medications. Many 
blood tests and a lumbar puncture did not reveal a metabolic 
cause of this delirium. You are being discharged to rehab. Your 
family wants to ensure that you are comfortable.
We wish you the best.
Sincerely,
The ___ Medicine Team
 
Followup Instructions:
___